US04533661
A suspension of (2-phthalimido-3-phenylpropyl)phosphonic acid in dry benzene is treated with phosphorus pentachloride and stirred at room temperature under argon for an hour. The mixture is then refluxed for 15 minutes, cooled and evaporated to dryness at room temperature (0.5 mm. of Hg). The residue is taken up in dry methylene chloride and reacted successively with a mixture of ethanol (1 eq.) and triethylamine (1 eq.) in methylene chloride and (S)-3-amino-2-oxopiperidineacetic acid, ethyl ester according to the procedure of Example 1(g). Work up of the reaction mixture according to the procedure of Example 1(g) yields (S)-3-[[[2-phthalimido-3-phenylpropyl]ethoxyphosphinyl]amino]-2-oxo-1-piperidineacetic acid, ethyl ester.

reactant | (2-phthalimido-3-phenylpropyl)phosphonic acid | C1(C=2C(C(N1C(CP(O)(O)=O)CC1=CC=CC=C1)=O)=CC=CC2)=O | C17H16NO5P
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ethanol | 1 eq. | C(C)O | C2H6O
reactant | triethylamine | 1 eq. | C(C)N(CC)CC | C6H15N
reactant | (S)-3-amino-2-oxopiperidineacetic acid, ethyl ester | N[C@@H]1C(N(CCC1)CC(=O)OCC)=O | C9H16N2O3
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (S)-3-[[[2-phthalimido-3-phenylpropyl]ethoxyphosphinyl]amino]-2-oxo-1-piperidineacetic acid, ethyl ester | C1(C=2C(C(N1C(CP(=O)(OCC)N[C@@H]1C(N(CCC1)CC(=O)OCC)=O)CC1=CC=CC=C1)=O)=CC=CC2)=O | C28H34N3O7P
